US07723369B2
5-{4-[4-(2,4-Dichloro-phenyl)-2-(4′-piperazin-1-yl-biphenyl-4-ylmethyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide (20 mg, 0.03 mmol) was treated as described in general procedure U using neopentyl chloroformate (9 mg, 0.06 mmol) to give 4-(4′-{4-(2,4-dichloro-phenyl)-1-[4-(1,1,4-trioxo-[1,2,5]thiadiazolidin-2-yl)-phenyl]-1H-imidazol-2-ylmethyl}-biphenyl-4-yl)-piperazine-1-carboxylic acid 2,2-dimethyl-propyl ester.

reactant | 5-{4-[4-(2,4-Dichloro-phenyl)-2-(4′-piperazin-1-yl-biphenyl-4-ylmethyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide | 0.03 mmol, 20 mg | ClC1=C(C=CC(=C1)Cl)C=1N=C(N(C1)C1=CC=C(C=C1)N1CC(NS1(=O)=O)=O)CC1=CC=C(C=C1)C1=CC=C(C=C1)N1CCNCC1 | C34H30Cl2N6O3S
reactant | neopentyl chloroformate | 0.06 mmol, 9 mg | ClC(=O)OCC(C)(C)C | C6H11ClO2
product | 4-(4′-{4-(2,4-dichloro-phenyl)-1-[4-(1,1,4-trioxo-[1,2,5]thiadiazolidin-2-yl)-phenyl]-1H-imidazol-2-ylmethyl}-biphenyl-4-yl)-piperazine-1-carboxylic acid 2,2-dimethyl-propyl ester | CC(COC(=O)N1CCN(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)CC=1N(C=C(N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)N1S(NC(C1)=O)(=O)=O)(C)C | C40H40Cl2N6O5S
